US04254122
A solution of 3-[4-(acetoxycarbonyl)phenyl]-6-[(N-acetyl)isobutylamino]tetrahydro-1,3,5-triazine-2,4-dione (2.6 g.) in 1,2-dimethoxyethane (20 ml.) containing water (2 ml.) was left for 20 hours and then evaporated. The residue was pressure-chromatographed on silica using a mixture of 44 parts by volume of ethyl acetate and 1 part by volume of acetic acid to yield 3-(4-carboxyphenyl)-6-[(N-acetyl)isobutylamino]tetrahydro-1,3,5-triazine-2,4-dione (0.9 g., 39%), m.p. 191°-193° C.

reactant | 3-[4-(acetoxycarbonyl)phenyl]-6-[(N-acetyl)isobutylamino]tetrahydro-1,3,5-triazine-2,4-dione | 2.6 g | C(C)(=O)OC(=O)C1=CC=C(C=C1)N1C(NC(NC1=O)N(C(C)=O)CC(C)C)=O | C18H22N4O6
reactant | water | 2 ml | O | H2O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 3-(4-carboxyphenyl)-6-[(N-acetyl)isobutylamino]tetrahydro-1,3,5-triazine-2,4-dione | 0.9 g, 39% | C(=O)(O)C1=CC=C(C=C1)N1C(NC(NC1=O)N(C(C)=O)CC(C)C)=O | C16H20N4O5
